US08445510B2
A suspension of tert-butyl 5-bromo-3-[(1S)-1-(2-chloro-6-{[(4R)-2,2-dimethyl-1,3-dioxolan-4-yl]methoxy}-3-fluorophenyl)ethyl]-1H-pyrrolo[2,3-b]pyridine-1-carboxylate (29.2 mg, 0.0500 mmol), 1,5-dimethyl-1H-pyrazole-4-boronic acid, pinacol ester (20.7 mg, 0.0885 mmol), Pd(PPh3)4 (2.8 mg, 0.0024 mmol), and potassium carbonate (33.2 mg, 0.240 mmol) in a 4:1 mixture of 1,4-dioxane (2 mL) to H2O (0.5 mL) was subjected to microwave heating [Biotage, 95° C.] for 20 min. The reaction was again subjected to microwave heating for an additional 20 minutes, which resulted in protected intermediate, tert-butyl 3-[(1S)-1-(2-chloro-6-{[(4R)-2,2-dimethyl-1,3-dioxolan-4-yl]methoxy}-3-fluorophenyl)ethyl]-5-(1,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridine-1-carboxylate. The microwave vial was opened, 4.0 M of HCl in 1,4-dioxane (1 mL, 4 mmol) was added to the stirring suspension, and the reaction was stirred at rt for 1 h, which lead to the BOC-protected intermediate, tert-butyl 3-[(1S)-1-(2-chloro-6-{[(2S)-2,3-dihydroxypropyl]oxy}-3-fluorophenyl)ethyl]-5-(1,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridine-1-carboxylate. 37% HCl (1 mL, 10 mmol) was added and stirred for 1 h at rt. Additional 37% HCl (1 mL, 10 mmol) was added and the reaction was stirred at rt for 15 h. The reaction mixture was concentrated in vacuo. The sample was dissolved in a mixture of CH2Cl2 and MeOH, passed through a syringe filter to remove excess K2CO3, and concentrated in vacuo. The crude was adsorbed onto a pre-filled silica loading cartridge [RediSepRf, 5 gram] and purified using the Teledyne/ISCO purification system [RediSepRf 4 gram silica], eluting with a solvent gradient of 0-20% 7N NH3(MeOH):EtOAc. Fractions containing product were combined and concentrated in vacuo. The sample was dissolved in MeOH, syringe filtered, and purified a second time using MDP, under acidic conditions (TFA). Fractions containing product were combined and concentrated in vacuo. The sample was dissolved in minimal MeOH, syringe filtered, and purified a third time using HPLC, under acidic conditions (formic acid). Fractions containing product were combined and concentrated in vacuo, yielding the title material as a clear and colorless film. 1H NMR (400 MHz, CD3OD): δ=8.10 (br s, 1H), 7.44 (s, 1H), 7.39 (d, J=1.3 Hz, 1H), 7.36 (d, J=1.8 Hz, 1H), 7.08 (dd, J=8.8 Hz, 1H), 6.90 (dd, J=8.7, 4.2 Hz, 1H), 5.12 (br d, J=6.6 Hz, 1H), 3.83-3.90 (m, 1H), 3.81 (s, 3H), 3.76-3.80 (m, 1H), 3.70 (br s, 1H), 3.42-3.51 (m, 1H), 3.34-3.42 (m, 1H), 2.18 (s, 3H), 1.83 (d, J=7.1 Hz, 3H). MS (ES+): m/z 459.08/461.03 (100/74) [MH+]. HPLC: tR=2.93 min (ZQ3, polar—5 min).

reactant | tert-butyl 5-bromo-3-[(1S)-1-(2-chloro-6-{[(4R)-2,2-dimethyl-1,3-dioxolan-4-yl]methoxy}-3-fluorophenyl)ethyl]-1H-pyrrolo[2,3-b]pyridine-1-carboxylate | 0.0500 mmol, 29.2 mg | BrC=1C=C2C(=NC1)N(C=C2[C@H](C)C2=C(C(=CC=C2OC[C@H]2OC(OC2)(C)C)F)Cl)C(=O)OC(C)(C)C | C26H29BrClFN2O5
reactant | 1,5-dimethyl-1H-pyrazole-4-boronic acid | CN1N=CC(=C1C)B(O)O | C5H9BN2O2
reactant | potassium carbonate | 0.240 mmol, 33.2 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.0024 mmol, 2.8 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | H2O | 0.5 mL | O | H2O
product | tert-butyl 3-[(1S)-1-(2-chloro-6-{[(4R)-2,2-dimethyl-1,3-dioxolan-4-yl]methoxy}-3-fluorophenyl)ethyl]-5-(1,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridine-1-carboxylate | ClC1=C(C(=CC=C1F)OC[C@H]1OC(OC1)(C)C)[C@@H](C)C1=CN(C2=NC=C(C=C21)C=2C=NN(C2C)C)C(=O)OC(C)(C)C | C31H36ClFN4O5
